US05321047
5 - (N,N-Dibenzylamino)pentanonitrile
A solution of 5-bromopentanonitrile (16.20 g) in dry dimethylformamide (100 ml) was added dropwise over 15 minutes to a stirred solution of dibenzylamine (19.73 g) and N,N-diisopropylethylamine (35 ml 26 g) in dry dimethylformamide (100 ml). The solution was heated (oil bath 110° C.) for 4 hours and was allowed to cool. The solution was poured onto a mixture of saturated aqueous sodium chloride (400 ml) and water (400 ml) and the mixture was extracted with ether (2×200 ml). The extracts were dried (Na2SO4) and concentrated in vacuo to give a mobile oil (30.32 g). The oil was chromatographed on silica with eluant diethyl ether to give the title compound (23.17 g) as an oil which was used without further purification in Example 14.

reactant | 5-bromopentanonitrile | 16.20 g | BrCCCCC#N | C5H8BrN
reactant | dibenzylamine | 19.73 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | N,N-diisopropylethylamine | 35 ml, 26 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium chloride | 400 ml | [Cl-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 5 - (N,N-Dibenzylamino)pentanonitrile | 30.32 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CCCCC#N | C19H22N2
